US05789409
Using 2.8 g of methyl 4-bromomethylphenylacetate, 2.9 g of 1-[phenyl-(2-pyridyl)methyl]piperazine, 2 ml of triethylamine, and 100 ml of dioxane, the reaction procedure of Example 1 was otherwise repeated and recrystallized from benzene-hexane to provide 2.47 g of methyl 4-[[4-[phenyl-(2-pyridyl)methyl]-1-piperazinyl]methyl]phenylacetate melting at 122° C.-123° C.

reactant | methyl 4-bromomethylphenylacetate | 2.8 g | BrCC1=CC=C(C=C1)CC(=O)OC | C10H11BrO2
reactant | 1-[phenyl-(2-pyridyl)methyl]piperazine | 2.9 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=NC=CC=C1 | C16H19N3
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | methyl 4-[[4-[phenyl-(2-pyridyl)methyl]-1-piperazinyl]methyl]phenylacetate | 2.47 g | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC=C(C=C1)CC(=O)OC)C1=NC=CC=C1 | C26H29N3O2
